US05246948
Synthesis of 3-(4-phthalimidobutylthio)pyridine
To a solution of 3.64 g (20 mmol) of 3-dimethylaminocarbamoylthiopyridine in 100 ml of methanol was added 1.6 g (40 mmol) of sodium hydroxide. The mixture was heated and refluxed for 3 hours under nitrogen atmosphere. After cooling, 5.64 g (20 mmol) of N-(4-bromobutyl)phthalimide was added. The mixture was heated and refluxed for 2.5 hours. The solvent was distilled off and chloroform was added to the residue. The mixture was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off and the residue was purified by column chromatography (eluent: ethyl acetate/n-hexane=1:1) to obtain 280 mg of the desired compound (4.5%, colorless oil).

reactant | 3-dimethylaminocarbamoylthiopyridine | 20 mmol, 3.64 g | CN(C)NC(=O)SC=1C=NC=CC1 | C8H11N3OS
reactant | sodium hydroxide | 40 mmol, 1.6 g | [OH-].[Na+]
reactant | N-(4-bromobutyl)phthalimide | 20 mmol, 5.64 g | BrCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C12H12BrNO2
solvent | methanol | 100 ml | CO | CH4O
product | 3-(4-phthalimidobutylthio)pyridine | 280 mg, 4.5% | C1(C=2C(C(N1CCCCSC=1C=NC=CC1)=O)=CC=CC2)=O | C17H16N2O2S
